US04845219
1-Benzyl-3-(12-cyclohexyldodecyl)glycerine
In 100 ml of dimethylsulfoxide is suspended 1.4 g of sodium hydride, to which 9.73 g of benzyl alcohol is added dropwise at room temperature with stirring. After the addition is over, the mixture is gradually heated to 60° C. and stirred at that temperature for 40 minutes. Then, a solution of 9.7 g of 1,2-epoxy-3-(12-cyclohexyldodecyloxy)propane in 50 ml of tetrahydrofuran is added dropwise to the mixture and the resulting mixture is stirred at 60° C. for 2 hours. The thus obtaind reaction mixture is then neutralized with dilute hydrochloric acid and extracted with hexane-ethyl acetate (1:1). The extract layer is washed with water, dried and concentrated. The residue is purified by silica gel column chromatography to yield 10.2 g of the captioned compound as an oily substance.

reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | benzyl alcohol | 9.73 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,2-epoxy-3-(12-cyclohexyldodecyloxy)propane | 9.7 g | O1CC1COCCCCCCCCCCCCC1CCCCC1 | C21H40O2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3-(12-cyclohexyldodecyl)glycerine | 10.2 g | C(C1=CC=CC=C1)OCC(O)COCCCCCCCCCCCCC1CCCCC1 | C28H48O3
